US07915300B2
4-[2-(1-Methyl-piperidin-4-yl)-thiazol-4-yl]-benzoic acid
To a solution of 4-(2-Piperidin-4-yl-thiazol-4-yl)-benzoic acid (1 mmol) in acetic acid (0.5 mL), methanol (3 mL) and tetrahydrofurane (4.5 mL) was added formaldehyde (aq. 37%, 300 mL) and polystyrene bound cyanoborohydride (2.36 mmol/g, 900 mg). The slurry was then agitated for 16 hours at room temperature. The slurry was then filtered and the resin washed with methanol (2 mL). The solution was concentrated to dryness in vacuo. m/z=303.1 in MS ES+, which was characterized by hplc and MS and used in the next step without any further purification.

reactant | 4-(2-Piperidin-4-yl-thiazol-4-yl)-benzoic acid | 1 mmol | N1CCC(CC1)C=1SC=C(N1)C1=CC=C(C(=O)O)C=C1 | C15H16N2O2S
reactant | formaldehyde | 300 mL | C=O | CH2O
solvent | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
solvent | methanol | 3 mL | CO | CH4O
solvent | tetrahydrofurane | 4.5 mL | O1CCCC1 | C4H8O
product | 4-[2-(1-Methyl-piperidin-4-yl)-thiazol-4-yl]-benzoic acid | CN1CCC(CC1)C=1SC=C(N1)C1=CC=C(C(=O)O)C=C1 | C16H18N2O2S
